US06939885B2
Synthesis of 4-tert-Butyl-N-[4-chloro-2-(pyrazine-2-carbonyl)-phenyl]-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using 117 mg of (2-Amino-5-chloro-phenyl)-pyrazin-2-yl-methanone and 116 mg of 4-tert-butyl-benzenesulfonyl chloride. 1H-NMR (400 MHz, CDCl3): δ 1.24 (s, 9H), 7.38 (dm, 2H, J=6.8 Hz), 7.50 (dd, 1H, J=9.2 Hz, 1.6 Hz), 7.70 (m, 2H), 7.76 (m, 1H), 7.80 (m, 1H), 8.62 (m, 1H), 8.77 (m, 1H), 9.06 (m, 1H), 10.37 (s, 1H). MS: m/z 430.0 (M++1).

reactant | (2-Amino-5-chloro-phenyl)-pyrazin-2-yl-methanone | 117 mg | NC1=C(C=C(C=C1)Cl)C(=O)C1=NC=CN=C1 | C11H8ClN3O
reactant | 4-tert-butyl-benzenesulfonyl chloride | 116 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
product | 4-tert-Butyl-N-[4-chloro-2-(pyrazine-2-carbonyl)-phenyl]-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C(=O)C1=NC=CN=C1 | C21H20ClN3O3S
